US07485750B2
Reacting 3,4-dialkoxy benzoic acid with methyl 4-aminobenzoate or 4-aminophenyl acetic acid methylester to produce a benzamide compound;

reactant | methyl 4-aminobenzoate | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | 4-aminophenyl acetic acid methylester | COC(CC1=CC=C(C=C1)N)=O | C9H11NO2
product | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
